US06858651B2
In analogy to examples 31.6, trans-Methanesulfonic acid 4-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexyl}-butyl ester was treated with 2-ethylamino-ethanol to give trans-(4-{4-[Ethyl-(2-hydroxy-ethyl)-amino]-butyl}-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester, MS: 411 (MH+, 1Cl).

reactant | trans-Methanesulfonic acid 4-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexyl}-butyl ester | ClC1=CC=C(OC(=O)N([C@@H]2CC[C@H](CC2)CCCCOS(=O)(=O)C)C)C=C1 | C19H28ClNO5S
reactant | 2-ethylamino-ethanol | C(C)NCCO | C4H11NO
product | trans-(4-{4-[Ethyl-(2-hydroxy-ethyl)-amino]-butyl}-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)CCCCN(CCO)CC)=O | C22H35ClN2O3
